US06784167B2
To a solution of 2-bromothiophene (1.0 g, 6.14 mmol) in 1,2-dimethoxyethane (11 mL) was added 4-fluorophenylboronic acid (1.12 g, 7.99 mmol), followed by Pd(PPh3)4 (360 mg, 0.31 mmol) and a 2M Na2CO3 aq. solution (8 mL). The reaction mixture was heated at 80° C. for 4 h, then was poured onto a mixture of ice and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (3×20 mL). The organic layers were dried (MgSO4) and concentrated under reduced pressure to yield a yellow oil. The crude product was filtered through a plug of silica with the aid of hexanes to give 4-fluorophenylthiphene (1.04 g, 95%). TLC (hex) Rf=0.40.

reactant | 2-bromothiophene | 6.14 mmol, 1.0 g | BrC=1SC=CC1 | C4H3BrS
reactant | 4-fluorophenylboronic acid | 7.99 mmol, 1.12 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 2M, 8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | 1,2-dimethoxyethane | 11 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.31 mmol, 360 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-fluorophenylthiphene | 1.04 g, 95% | FC1=CC=C(C=C1)C=1SC=CC1 | C10H7FS
